US07786108B2
Step 4. Preparation of (S)-5-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-yl}-3,3-dimethyl-pentanoic acid
To a solution of (S)-5-{9-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-yl}-3,3-dimethyl-pentanoic acid methyl ester (0.113 mmol) in methanol (3 mL), add 5 N NaOH (2 mL) and heat to 60° C. After stirring for 6 h, cool the reaction to room temperature, dilute with water (10 mL) and neutralize with 5 M HCl. Extract the organics with ethyl acetate (2×20 mL). Combine the organic portions, dry over sodium sulfate, filter, and remove the solvent under vacuum. Chromatograph the product over silica gel, eluting with ethyl acetate/hexane (20-60%) to afford the title compound as a colorless foam. MS (ES+): 641.3 (M+H).

reactant | (S)-5-{9-[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-yl}-3,3-dimethyl-pentanoic acid methyl ester | 0.113 mmol | COC(CC(CCN1CCC[C@@H](C2=CC=3COCC3C=C21)N(C=2N=NN(N2)C)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)(C)C)=O | C31H36F6N6O3
reactant | NaOH | 5 N, 2 mL | [OH-].[Na+]
reactant | HCl | 5 M | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | (S)-5-{9-[(3,5-Bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-1,3,6,7,8,9-hexahydro-2-oxa-5-aza-cyclohepta[f]inden-5-yl}-3,3-dimethyl-pentanoic acid | FC(C=1C=C(CN([C@H]2CCCN(C=3C2=CC=2COCC2C3)CCC(CC(=O)O)(C)C)C=3N=NN(N3)C)C=C(C1)C(F)(F)F)(F)F | C30H34F6N6O3
